US05571833
A solution of 2-nitro-5-methoxy-6-chloro-β-pyrrolidinostyrene (5.28 g, 18.7 mmol) in benzene (100 ml) was stirred under nitrogen at 20° C. Raney nickel (0.50 ml) was added, followed by hydrazine hydrate (1.6 ml). After 30 minutes, more hydrazine hydrate was added (1.6 ml), and the mixture was stirred for a further 11/2 hours. After filtration through celite, the filtrate was evaporated to dryness to leave a dark yellow crystalline residue, which was purified by chromatography (SiO2 ; CHCl3), then recrystallised from benzene/hexane to give 4-chloro-5-methoxyindole (2.85 g) m.p. 112°-3° C.

reactant | 2-nitro-5-methoxy-6-chloro-β-pyrrolidinostyrene | 18.7 mmol, 5.28 g | [N+](=O)([O-])C1=C(C=CN2CCCC2)C(=C(C=C1)OC)Cl | C13H15ClN2O3
reactant | hydrazine hydrate | 1.6 ml | O.NN
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
catalyst | Raney nickel | 0.50 ml | [Ni] | Ni
product | 4-chloro-5-methoxyindole | 2.85 g | ClC1=C2C=CNC2=CC=C1OC | C9H8ClNO
